US06610696B2
A. 2-Methyl-2-(4-{2-[5-methyl-2-(4-pyrimidin-5-yl-phenyl)-oxazol-4-yl]-ethoxy}-phenoxy)-propionic acid ethyl ester
A 50 mL flask was charged with 2-methyl-2-[4-(2-{5-methyl-2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazol-4-yl}-ethoxy)-phenoxy]-propionic acid ethyl ester (198 mg, 0.371 mmol), 5-bromopyrimidine (54 mg, 338 mmol), and 5 mL of isopropanol. The flask was purged with N2 three times. After 20 min, palladium acetate (3.0 mg, 0.04 mmol) and triphenylphosphine (3.5 mg, 0.04 mmol) were added. Following addition of a solution of sodium carbonate (43 mg in 1 mL H2O), the mixture was heated to 86° C. for 4 h. The solvent was removed under reduced pressure and the remaining residue taken up in CH2Cl2 (25 mL) and extracted with 0.5 N NaOH (25 mL). The aqueous layer was back extracted with an additional 25 mL CH2Cl2 and the organic layers combined. The organic layer was washed with 1 N NaOH (25 mL) and H2O (25 mL) and then dried and concentrated in vacuo. Flash chromatography provided the desired product. 1H NMR (400 MHz, CDCl3) δ9.23 (s, 1 H), 9.20 (s, 2 H), 8.16 (d, 2 H), 7.65 (d, 2 H), 6.88 (d, 2 H), 6.75 (d, 2 H), 4.21 (q, 2 H), 4.20 (t, 2 H), 3.00 (t, 2 H), 2.39 (s, 3 H), 1.48 (s, 6 H), 1.21 (t, 3 H); MS (EI) 488.1 (M+H)+.

reactant | 2-methyl-2-[4-(2-{5-methyl-2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazol-4-yl}-ethoxy)-phenoxy]-propionic acid ethyl ester | 0.371 mmol, 198 mg | C(C)OC(C(C)(OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C)=O | C30H38BNO7
reactant | 5-bromopyrimidine | 338 mmol, 54 mg | BrC=1C=NC=NC1 | C4H3BrN2
reactant | triphenylphosphine | 0.04 mmol, 3.5 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium carbonate | 1 mL, 43 mg | C([O-])([O-])=O.[Na+].[Na+]
catalyst | palladium acetate | 0.04 mmol, 3.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | isopropanol | 5 mL | C(C)(C)O | C3H8O
product | 2-Methyl-2-(4-{2-[5-methyl-2-(4-pyrimidin-5-yl-phenyl)-oxazol-4-yl]-ethoxy}-phenoxy)-propionic acid ethyl ester | C(C)OC(C(C)(OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)C=1C=NC=NC1)C)=O | C28H29N3O5
